US07858621B2
2-(2-Bromo-6-tert-butyl-pyridin-3-yloxy)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acetamide
3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride (72 mg, 0.25 mmol) was reacted with (2-bromo-6-tert-butyl-pyridin-3-yloxy)-acetic acid (64 mg), DMTMM (1.2 eq, 83 mg) and NEt3 (2.5 eq, 90 μl) in THF to give the title compound (71 mg, 58.2%) after purification by column chromatography (Hex/EtOAc=1/1).

reactant | 3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride | 0.25 mmol, 72 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | (2-bromo-6-tert-butyl-pyridin-3-yloxy)-acetic acid | 64 mg | BrC1=NC(=CC=C1OCC(=O)O)C(C)(C)C | C11H14BrNO3
reactant | DMTMM | 83 mg, 1.2 eq | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | NEt3 | 90 μl, 2.5 eq | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-Bromo-6-tert-butyl-pyridin-3-yloxy)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acetamide | 71 mg, 58.2% | BrC1=NC(=CC=C1OCC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(C)(C)C | C19H23BrFN3O4S
